US07060700B2
N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-[N-(3-dimethylaminopropyl)-N-methylamino]pyridine-4-carboxamide
Using an analogous procedure to that described in Example 21, 2-chloro-N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide was reacted with N-(3-dimethylaminopropyl)-N-methylamine to give the title compound in 46% yield; NMR Spectrum: (DMSOd6) 1.67 (m, 2H), 2.11 (s, 6H), 2.21 (m, 2H), 3.04 (s, 3H), 3.51 (m, 6H), 3.71 (m, 4H), 6.97 (d, 1H), 7.09 (m, 2H), 7.23 (s, 1H), 7.54 (d, 1H), 7.71 (d, 1H), 8.04 (s, 1H), 8.20 (d, 1H), 8.27 (d, 1H), 10.13 (s, 1H), 10.47 (s, 1H); Mass Spectrum: M+H+ 552.

reactant | 2-chloro-N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide | ClC1=NC=CC(=C1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)Cl | C22H19Cl2N5O3
reactant | N-(3-dimethylaminopropyl)-N-methylamine | CN(CCCNC)C | C6H16N2
product | N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-[N-(3-dimethylaminopropyl)-N-methylamino]pyridine-4-carboxamide | 46% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(=O)C1=CC(=NC=C1)N(C)CCCN(C)C | C28H34ClN7O3
